US04727075
5-(2',4'-dichlorobenzoyl)pyrimidine
61.8 g (0.3 mole) of methyl 2,4-dichlorobenzoate and 52.2 g (0.33 mole) of 5-bromopyrimidine are dissolved in a mixture of 400 ml of tetrahydrofuran and 200 ml of diethyl ether. After the addition of 30 g of molecular sieve, the reaction mixture is stirred for 1/2 hour at room temperature and then cooled to about -120° C. 187.2 ml (0.3 mole) of butyl lithium as a 1.6 molar solution in hexane are added dropwise at this temperature. The reaction mixture is then stirred for 11/2 hours in the temperature range from -100° to -130° C. Subsequently, while allowing the temperature to increase to room temperature, stirring is continued until the reaction is complete. 300 ml of 10% ammonium chloride solution are then added dropwise, and the reaction mixture is extracted three times with ethyl acetate. The organic solution is dried over sodium sulfate and then filtered, and the filtrate is concentrated. The resultant crude product is then purified through a flash column packed with silica gel (eluant: a 3:1 mixture of petroleum ether and ethyl acetate), affording 45 g (59.3% of theory) of the title compound with a melting point of 75°-78° C.

reactant | methyl 2,4-dichlorobenzoate | 0.3 mole, 61.8 g | ClC1=C(C(=O)OC)C=CC(=C1)Cl | C8H6Cl2O2
reactant | 5-bromopyrimidine | 0.33 mole, 52.2 g | BrC=1C=NC=NC1 | C4H3BrN2
reactant | butyl lithium | 0.3 mole, 187.2 ml | C(CCC)[Li]
reactant | ammonium chloride | 300 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 5-(2',4'-dichlorobenzoyl)pyrimidine | ClC1=C(C(=O)C=2C=NC=NC2)C=CC(=C1)Cl | C11H6Cl2N2O
